US04298739
5.0 Grams of 5-chloro-6-(3-carboxypropoxy)carbostyril and 2.97 ml of triethylamine are added to 100 ml of DMF, followed by dropwise addition thereto of 2.33 ml of isobutyl chloroformate under external ice cooling and agitation while maintaining the internal temperature at 0° to 10° C. After this dropwise addition, the mixture is agitated at room temperature for 1 hour, added dropwise with 2.8 g of N-n-butylcyclohexylamine and further agitated at room temperature for 3 hours. After the reaction, the solvent is distilled off and the residue is dissolved in 600 ml of chloroform, washed with diluted hydrochloric acid, aqueous K2CO3 solution and water in that order and then dried with anhydrous Na2SO4. After removing the inorganic matter by filtration, the mother liquor is concentrated and the residue is recrystallized from ethanol, resultantly obtaining 2.5 g of 5-chloro-6-[3-N-cyclohexyl-N-butylaminocarbonyl)propoxy]carbostyril in the form of colorless needle-like crystals. m.p., 178.5°-179.5° C.

reactant | 5-chloro-6-(3-carboxypropoxy)carbostyril | ClC1=C2C=CC(NC2=CC=C1OCCCC(=O)O)=O | C13H12ClNO4
reactant | triethylamine | 2.97 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.33 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-n-butylcyclohexylamine | 2.8 g | C(CCC)NC1CCCCC1 | C10H21N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | carbostyril | N1C(=O)C=CC2=CC=CC=C12 | C9H7NO
